US04476316
A stirred mixture of 117 g of butyl carbamate, 5 g of butanol, 15 g of ®LEWASORB AC-10 and 60 g of isobutene was heated to 70° C. in a stirred autoclave, and stirring was continued at this temperature for 4 hours. Thereafter, the catalyst was separated off and the mixture was distilled under reduced pressure. 161 g (93% of theory) of butyl N-tert.-butylcarbamate of boiling point 110°-111° C./20 mbar were obtained. No substantial amount of diisobutene was detected.

reactant | butyl carbamate | 117 g | C(N)(OCCCC)=O | C5H11NO2
reactant | isobutene | 60 g | C=C(C)C | C4H8
catalyst | butanol | 5 g | C(CCC)O | C4H10O
product | butyl N-tert.-butylcarbamate | 161 g, 93% | C(C)(C)(C)NC(OCCCC)=O | C9H19NO2
